US07700641B2
C. Synthesis of ethyl[3-(6-hydroxy-1,3-benzodioxol-5-yl)-2-oxo-2,3-dihydro-1H-indol-1-yl]acetate
Following the procedure as described in PREPARATION 1D, and making non-critical variations to replace 4-bromo-3-hydroxy-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1-pentyl-1,3-dihydro-2H-indol-2-one with ethyl[3-hydroxy-3-(6-hydroxy-1,3-benzodioxol-5-yl)-2-oxo-2,3-dihydro-1H-indol-1-yl]acetate, the title compound was obtained (84%) as a white powder: 1H NMR (300 MHz, DMSO-d6) δ 9.37 (s, 1H), 7.19 (m, 1H), 7.01-6.90 (m, 3H), 6.43 (s, 2H), 5.84 (m, 2H), 4.86 (s, 1H), 4.56 (s, 2H), 4.13 (q, 2H), 1.18 (t, 3H); MS (ES+) m/z 378.2 (M+23).

reactant | 4-bromo-3-hydroxy-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1-pentyl-1,3-dihydro-2H-indol-2-one | BrC1=C2C(C(N(C2=CC=C1)CCCCC)=O)(C1=CC2=C(OCO2)C=C1O)O | C20H20BrNO5
reactant | ethyl[3-hydroxy-3-(6-hydroxy-1,3-benzodioxol-5-yl)-2-oxo-2,3-dihydro-1H-indol-1-yl]acetate | C(C)OC(CN1C(C(C2=CC=CC=C12)(C1=CC2=C(OCO2)C=C1O)O)=O)=O | C19H17NO7
product | ethyl[3-(6-hydroxy-1,3-benzodioxol-5-yl)-2-oxo-2,3-dihydro-1H-indol-1-yl]acetate | C(C)OC(CN1C(C(C2=CC=CC=C12)C1=CC2=C(OCO2)C=C1O)=O)=O | C19H17NO6
